### PR TITLE
[Merged by Bors] - fix: prove sorries in Tactic.NormNum.Basic

### PR DESCRIPTION
**Pull request by digama0**
* I slightly simplified the statement of `isRat_inv_pos` and `isRat_inv_neg` to not need a positivity assumption.
* The statements of `isRat_add`, `isRat_sub`, `isRat_mul` did not need to assume the multiplier `k` is nonzero.
* The statement of `isRat_inv_pos` was also wrong, needing a `CharZero` assumption. We can revisit the possibility of non-`CharZero` rings later (by taking an `Invertible n` assumption there instead).

### CODE REVIEW

File: test/norm_num.lean [hunk 1]
```diff
@@ -71,18 +71,18 @@ by norm_num at *; exact h
...
+example (a : ℚ) (h : 3⁻¹ * a = a) : True := by
   norm_num at h
   guard_hyp h : 1 / 3 * a = a
   trivial
 
--- example (h : (5 : ℤ) ∣ 2) : false := by norm_num at h
--- example (h : false) : false := by norm_num at h
-example : true := by norm_num
-example : true ∧ true := by norm_num
+example (h : (5 : ℤ) ∣ 2) : False := by norm_num at h
```
Comment (hrmacbeth) [inline test/norm_num.lean:82]: This one is not being done by `norm_num`; there's no extension for `∣` yet.  Instead it it's being done by the `simp` call built into `norm_num`; in fact `simp only at h` also does it.

It's actually pretty weird behaviour -- my best guess is that `simp only` does some decidability checking.  I'll post on Zulip.  But for now can you please post a note similar to the note at line 23
```text
 -- [fixme] simp doing the work not norm_num
```

**Comment by hrmacbeth** [comment]
Thanks!

bors d+

File: test/norm_num.lean (hunk 1 above)
Comment (hrmacbeth) [reply test/norm_num.lean:82]: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/.60simp.20only.60.20does.20decidable.20checks.3F

Comment (digama0) [reply test/norm_num.lean:82]: As I said on the zulip (but to repeat here for posterity): I don't like having different standards for tests than failure/success. If this test doesn't test what it should, we should make a better test. Beyond that, the behavior of `norm_num` to use `simp` including the bells and whistles is part of the intended design, so I don't think we need to treat this as a failing test at all.
